US06365753B1
N-(4-Chloro-2-fluoro-5-nitrophenyl)phthalimide
A mixture of 49.6 g of N-(4-chloro-2-fluorophenyl)phthalimide and 180 ml of concentrated sulfuric acid was cooled in an ice bath, and a mixed acid consisting of 22.7 g of 60% nitric acid and 18 ml of concentrated sulfuric acid was slowly added dropwise under stirring (reaction temperature<10° C.). After the dropwise addition, the stirring was continued under cooling in an ice bath for 1 hour and then at room temperature for 1 hour. The reaction mixture was poured into ice-water, and the precipitated solid was collected by filtration. The resulting solid was washed successively with water and methanol and dried under reduced pressure to give 57.2 g of the title compound.

reactant | N-(4-chloro-2-fluorophenyl)phthalimide | 49.6 g | ClC1=CC(=C(C=C1)N1C(C=2C(C1=O)=CC=CC2)=O)F | C14H7ClFNO2
reactant | nitric acid | 22.7 g | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 180 ml | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 18 ml | S(O)(O)(=O)=O | H2O4S
product | N-(4-Chloro-2-fluoro-5-nitrophenyl)phthalimide | 57.2 g | ClC1=CC(=C(C=C1[N+](=O)[O-])N1C(C=2C(C1=O)=CC=CC2)=O)F | C14H6ClFN2O4
